US06255301B1
(i) 2-Chloro-3-methylbenzoic Acid
Sodium nitrite (14.0 g; 0.2 mol) was added to a solution of 2-amino-3-methylbenzoic acid (30.2 g; 0.2 mol) in a mixture of water (200 mL) and NaOH/aq (30%; 24 mL). The solution was cooled to 0° C. and was added dropwise, with stirring, to a mixture of HCl (conc.; 87.6 mL) and ice (100 g). After stirring for a few minutes, the resultant solution was added to an ice cold mixture of HCl/aq (23%; 100 g), CuCl (20 g; 0.2 mol) and water (40 mL). The solution was stirred at room temperature for 30 minutes and at 100° C. for 30 minutes, cooled, and the resultant precipitate was isolated by filtration, was washed with water, and was dried overnight, yielding 27.4 g (80.3%) of a white crystalline material.

reactant | Sodium nitrite | 0.2 mol, 14.0 g | N(=O)[O-].[Na+]
reactant | 2-amino-3-methylbenzoic acid | 0.2 mol, 30.2 g | NC1=C(C(=O)O)C=CC=C1C | C8H9NO2
reactant | HCl | 87.6 mL | Cl | ClH
reactant | HCl | 100 g | Cl | ClH
solvent | water | 200 mL | O | H2O
solvent | NaOH | 24 mL | [OH-].[Na+]
catalyst | CuCl | 0.2 mol, 20 g | Cl[Cu]
solvent | water | 40 mL | O | H2O
product | 2-Chloro-3-methylbenzoic Acid | ClC1=C(C(=O)O)C=CC=C1C | C8H7ClO2
